US05929082
e) 4-amino-2,6-dibromopyridine (Van Ammers and Den Hertog, 1958)
A mixture of 4-nitro-2,6-dibromopyridine-N-oxide (1.2 g), iron powder (1.2 g) and acetic acid (15 ml) were stirred and heated to 100° C. for 1 hour. Upon cooling the mixture was basified with 3 molar sodium hydroxide and continuously extracted with ether. Removal of the ether under reduced pressure left a white crystalline product of 4-amino-2,6-dibromopyridine (1.0 g, 99%), m.p. 212-214° C.

reactant | 4-nitro-2,6-dibromopyridine-N-oxide | 1.2 g | [N+](=O)([O-])C1=CC(=[N+](C(=C1)Br)[O-])Br | C5H2Br2N2O3
reactant | sodium hydroxide | 3 molar | [OH-].[Na+]
catalyst | iron | 1.2 g | [Fe] | Fe
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 4-amino-2,6-dibromopyridine | NC1=CC(=NC(=C1)Br)Br | C5H4Br2N2
